US06809108B1
1-Cyclooctylmethyl-1-ethyl-3-({(6-{(3,3,3-triphenylpropanoyl)amino}hexanoyl)amino}methyl)piperidinium iodide
The title compound was prepared by a method similar to Example 130, using N-(6-{(1-cyclooctylmethyl-3-piperidyl)methyl}amino-6-oxohexyl)-3,3,3-triphenylpropanamide and ethyl iodide. The compound was obtained as a pale yellow solid.

reactant | N-(6-{(1-cyclooctylmethyl-3-piperidyl)methyl}amino-6-oxohexyl)-3,3,3-triphenylpropanamide | C1(CCCCCCC1)CN1CC(CCC1)CNC(CCCCCNC(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C42H57N3O2
reactant | ethyl iodide | C(C)I | C2H5I
product | 1-Cyclooctylmethyl-1-ethyl-3-({(6-{(3,3,3-triphenylpropanoyl)amino}hexanoyl)amino}methyl)piperidinium iodide | [I-].C1(CCCCCCC1)C[N+]1(CC(CCC1)CNC(CCCCCNC(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O)CC | InChI=1S/C44H61N3O2.HI/c1-2-47(35-37-21-10-4-3-5-11-22-37)32-20-23-38(36-47)34-46-42(48)30-18-9-19-31-45-43(49)33-44(39-24-12-6-13-25-39,40-26-14-7-15-27-40)41-28-16-8-17-29-41;/h6-8,12-17,24-29,37-38H,2-5,9-11,18-23,30-36H2,1H3,(H-,45,46,48,49);1H
